US06090805
To a stirred solution of N-tert-butyloxycarbonyl-4-piperidinol (1.0 g, 5.0 mmol) in THF (20 mL) at 0° C. was added potassium tert-butoxide (5.0 mL of a 1.0 M solution in THF, 5.0 mmol). The mixture was stirred for 10 min and 4-fluoro-2-trifluoromethyl-benzonitrile (1.04 g, 5.5 mmol) was added. The mixture was stirred at 0° C. for 1 h and then at ambient temperature for 14 h. The solvent was removed under reduced pressure and the residue was partitioned between EtOAc (100 mL) and saturated aqueous NaHCO3 (50 mL). The organic phase was dried (MgSO4), filtered, and the solvent was removed under reduced pressure. The residue was purified by pressurized silica gel column chromatography using 1:2 EtOAc:hexanes as eluant to give 4-(N-tert-butyloxycarbonyl-4-piperidinyloxy)-2-trifluoromethylbenzonitrile as a colorless gum.

reactant | N-tert-butyloxycarbonyl-4-piperidinol | 5.0 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | 4-fluoro-2-trifluoromethyl-benzonitrile | 5.5 mmol, 1.04 g | FC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H3F4N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-(N-tert-butyloxycarbonyl-4-piperidinyloxy)-2-trifluoromethylbenzonitrile | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC(=C(C#N)C=C1)C(F)(F)F | C18H21F3N2O3
